US06455587B1
Preparation of Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(trans-2-methoxycinnamoyl)-L-lysine (Compound No. 161)
A mixture of trans-2-methoxycinnamic acid (106 mg, 0.55 mmol) and carbonyldiimidazole (89 mg, 0.55 mmol) in THF (3 mL) was stirred at room temperature for 1 h, and then at 40° C. until gas evolution ceased. The mixture was cooled to room temperature and Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine (212 mg, 0.50 mmol) in solution in 1M K2CO3 was added. The reaction mixture was stirred at room temperature for 3 h, then diluted with 1N HCl and extracted with EtOAc. The organic layer was dried over MgSO4, concentrated in vacuo and purified by flash chromatography eluting with 70% EtOAc in hexane containing 0.4% AcOH to give the title compound (71% yield).

reactant | trans-2-methoxycinnamic acid | 0.55 mmol, 106 mg | COC1=C(/C=C/C(=O)O)C=CC=C1 | C10H10O3
reactant | carbonyldiimidazole | 0.55 mmol, 89 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine | 0.50 mmol, 212 mg | C(C(C)C)N([C@@H](CCCCN)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H25N3O6S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
solvent | HCl | 1N | Cl | ClH
product | Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(trans-2-methoxycinnamoyl)-L-lysine | 71% yield | C(C(C)C)N([C@@H](CCCCNC(\C=C\C1=C(C=CC=C1)OC)=O)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C26H33N3O8S
